US08420640B2
A solution of 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine (0.5 g, 1.7 mmol), 4-methylbenzene-1-sulfonyl chloride (0.32 g, 1.7 mmol) and triethylamine (0.60 ml, 4.2 mmol) in 20 ml dichloromethane was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. N-(2-nitro-5-(4-tosylpiperazin-1-yl)phenyl)benzenamine (0.30 g, 40%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.46 (s, 3H), 3.24 (t, J=4.5 Hz, 4H), 3.42 (t, J=4.5 Hz, 4H), 6.42 (d, J=9.6 Hz, 1H), 6.64 (s, 1H), 7.28-7.65 (m, 9H), 8.14 (d, J=9.5 Hz, 1H), 9.90 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 22.0, 45.5, 48.4, 48.5, 99.5, 99.6, 125.0, 106.8, 126.4, 128.2, 129.6, 130.3, 130.4, 132.7, 138.9, 144.8, 145.6.

reactant | 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine | 1.7 mmol, 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC=C1 | C16H18N4O2
reactant | 4-methylbenzene-1-sulfonyl chloride | 1.7 mmol, 0.32 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 4.2 mmol, 0.60 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2-nitro-5-(4-tosylpiperazin-1-yl)phenyl)benzenamine | 0.30 g, 40% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C)C=C1)NC1=CC=CC=C1 | C23H24N4O4S
